US09108903B2
A solution of 2-fluoro-4-(1,1,2,2,2-pentafluoroethyl)benzoyl chloride (0.46 g, 1.66 mmol) in dichloromethane (6.34 mL) was added dropwise to a mixture of tert-butyl 4-aminobenzoate (321.4 mg, 1.66 mmol), pyridine (403.5 μL, 4.99 mmol) and dichloromethane (4.2 mL) at 0° C. The reaction was stirred and allowed to warm up to room temperature over 18 hours. To this reaction, water (5 mL) was added. The two layers were separated. The organic layer was washed with water (2×10 mL), dried over Na2SO4, filtered and evaporated under reduced pressure to yield tert-butyl 4-[[2-fluoro-4-(1,1,2,2,2-pentafluoroethyl)benzoyl]amino]benzoate (0.7 g, 97%) that was used in the next step without further purification. ESI-MS m/z calc. 433.11, found 434.3 (M+1)+; Retention time: 2.27 minutes (3 minutes run). 1H NMR (400 MHz, DMSO-d6) δ 10.96 (s, 1H), 7.99-7.90 (m, 3H), 7.90-7.80 (m, 3H), 7.71 (dd, J=8.1, 1.7 Hz, 1H), 1.55 (s, 9H) ppm.

reactant | 2-fluoro-4-(1,1,2,2,2-pentafluoroethyl)benzoyl chloride | 1.66 mmol, 0.46 g | FC1=C(C(=O)Cl)C=CC(=C1)C(C(F)(F)F)(F)F | C9H3ClF6O
reactant | tert-butyl 4-aminobenzoate | 1.66 mmol, 321.4 mg | NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
reactant | pyridine | 4.99 mmol, 403.5 μL | N1=CC=CC=C1 | C5H5N
reactant | water | 5 mL | O | H2O
solvent | dichloromethane | 6.34 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4.2 mL | ClCCl | CH2Cl2
product | tert-butyl 4-[[2-fluoro-4-(1,1,2,2,2-pentafluoroethyl)benzoyl]amino]benzoate | 0.7 g, 97% | FC1=C(C(=O)NC2=CC=C(C(=O)OC(C)(C)C)C=C2)C=CC(=C1)C(C(F)(F)F)(F)F | C20H17F6NO3
